US06599902B2
5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (5 g, 29.9 mmol) reacted with 1-(2-aminoethyl)pyrrolidine (4.1 g, 35.9 mmol) to give 5.7 g (73%) of 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide.

reactant | 5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 29.9 mmol, 5 g | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
reactant | 1-(2-aminoethyl)pyrrolidine | 35.9 mmol, 4.1 g | NCCN1CCCC1 | C6H14N2
product | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide | 5.7 g, 73% | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=O)C | C14H21N3O2
